US06582351B1
To a solution of 3-(2-acetoxy-1,1-dimethylethyl)-6-trifluoromethyl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one (150 mg) in anhydrous N,N-dimethylformamide (1.5 mL) was added portionwise sodium hydride (20.8 mg, 60% dispersion in mineral oil) at 5° C. under nitrogen atmosphere, and the mixture was stirred at room temperature for 30 minutes. After adding 3-chloro-4-methoxybenzylbromide (117 mg), the mixture was stirred at room temperature for 4 hours. After adding tetrahydrofuran (2 mL), methanol (1 mL) and 1N-sodium hydroxide solution (1 mL), the mixture was refluxed for an hour. After cooling to room temperature, the mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The separated organic layer was washed successively with water, 1N-hydrochloric acid, an aqueous saturated sodium hydrogencarbonate solution and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residual solid was washed with diethyl ether to give 1-(3-chloro-4-methoxybenzyl)-3-(1,1-dimethyl-2-hydroxyethyl)-6-trifluoromethyl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one (161.6 mg) as an orange solid.

reactant | 3-(2-acetoxy-1,1-dimethylethyl)-6-trifluoromethyl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one | 150 mg | C(C)(=O)OCC(C)(C)N1C(NC=2C1=NC=C(C2)C(F)(F)F)=O | C13H14F3N3O3
reactant | sodium hydride | 20.8 mg | [H-].[Na+]
reactant | 3-chloro-4-methoxybenzylbromide | 117 mg | ClC=1C=C(CBr)C=CC1OC | C8H8BrClO
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(3-chloro-4-methoxybenzyl)-3-(1,1-dimethyl-2-hydroxyethyl)-6-trifluoromethyl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one | 161.6 mg | ClC=1C=C(CN2C(N(C3=NC=C(C=C32)C(F)(F)F)C(CO)(C)C)=O)C=CC1OC | C19H19ClF3N3O3
